* E:\1. Electrical Engineering\Power Electronics Final\Power-Electronics-Final\Task 1\task1_model1.asc
V_gg N003 0 PULSE(0 10 0 10n 10n 5u 10u)
M1 N002 N004 0 0 AO6408
R1 N004 N003 12
R_L N001 N002 20
C1 N001 0 1m
V1 N001 0 20
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\ASUS ROG\Documents\LTspiceXVII\lib\cmp\standard.mos
* G
* D
* S
.tran 0 1m 0.97m 0.1n
.backanno
.end
